US06069141
To a flame dried flask containing 4-fluorobenzaldoxime (1.00 g) in DMF (100 mL) is added N-chlorosuccinimide (1.70 g) slowly at 0° C. The reaction is warmed to 50° C. for 3 hours, poured over ice, diluted with H2O(100 mL), and extracted with EtOAc (150 mL). The organic phase is washed with H2O (5×100 mL), saline (100 mL), dried over sodium sulfate, concentrated in vacuo to give a quantitative yield of 4-fluoro-N-hydroxy-benzenecarboximidoyl chloride. To a flask containing 4-fluoro-N-hydroxy-benzenecarboximidoyl chloride (1.25 g) and allyl acetamide (780 mg) in methylene chloride (75 mL) at 0° C. under an inert atmosphere is added triethylamine (3.05 mL, 21.60 mmol). The reaction is slowly warmed to ambient temperature, stirred 20 hours, quenched with water (100 mL), and extracted with methylene chloride (3×100 mL). The organic extracts are combined, washed with saline (50 mL), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 200 mL), eluting with chloroform/methanol (99/1). The appropriate fractions are combined (Rf =0.26, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give (±)-N-[[4,5-dihydro-3-(4-fluorophenyl)-5-isoxazolyl]methyl]acetamide, mp 167-168° C.

reactant | 4-fluoro-N-hydroxy-benzenecarboximidoyl chloride | 1.25 g | FC1=CC=C(C=C1)C(=NO)Cl | C7H5ClFNO
reactant | allyl acetamide | 780 mg | C(C=C)CC(=O)N | C5H9NO
reactant | triethylamine | 21.60 mmol, 3.05 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-[[4,5-dihydro-3-(4-fluorophenyl)-5-isoxazolyl]methyl]acetamide | FC1=CC=C(C=C1)C1=NOC(C1)CNC(C)=O | C12H13FN2O2
